***** Pspice Netlist      (Cadence Design Systems Inc.)
***** Design : safety_circuit_2025-26
***** Date   : NOV 12' 2025		Time : 0:48:43
****************************************************************


X_R9	_N48 _N50    rc1206fr_0710kl
X_U12	_N96 _N97 0    mmbt2222a
X_LED6	COCKPIT _N107    150060ss75000
X_J1	BOTS RIGHT LEFT COCKPIT BSPD NC LVMS INERTIA    397730008
X_U1	_N34 _N2 0 0    vo618a_3x017t
X_R32	_N73 _N110    erj_p06j621v
X_U6	_N60 _N61 0    mmbt2222a
X_R10	0 _N50    rc0805fr_07100kl
X_R15	0 _N62    rc0805fr_07100kl
X_R21	_N83 BOTS    rc1206fr_071kl
X_R20	0 _N74    rc0805fr_07100kl
X_R7	_N3 _N34    rc1206fr_0710kl
X_C3	0 _N62    cl21c221jbannnc
X_R19	_N72 _N74    rc1206fr_0710kl
X_R3	_N18 BSPD_LED    erj_p06j621v
X_C1	0 _N34    cl21c221jbannnc
X_R16	_N71 RIGHT    rc1206fr_071kl
X_R12	_N62 COCKPIT    rc1206fr_0710kl
X_C6	0 _N98    cl21c221jbannnc
X_R2	_N34 LVMS    rc1206fr_0710kl
X_R34	_N49 _N108    erj_p06j621v
X_R36	_N97 _N105    erj_p06j621v
X_R11	_N59 LEFT    rc1206fr_071kl
X_U9	_N86 _N83 0 0    vo618a_3x017t
X_R14	_N60 _N62    rc1206fr_0710kl
X_R30	0 _N98    rc0805fr_07100kl
X_R28	_N97 INERTIA_LED    erj_p06j621v
X_LED2	LEFT _N110    150060ss75000
X_R5	_N50 BSPD    rc1206fr_0710kl
X_R23	_N85 BOTS_LED    erj_p06j621v
X_U5	_N62 _N59 0 0    vo618a_3x017t
X_LED4	BOTS _N105    150060ss75000
X_U11	_N98 _N95 0 0    vo618a_3x017t
X_U4	_N48 _N49 0    mmbt2222a
X_R8	0 _N34    rc0805fr_07100kl
X_U2	_N3 _N18 0    mmbt2222a
X_LED5	BSPD _N108    150060ss75000
X_C4	0 _N74    cl21c221jbannnc
X_R1	_N2 BSPD    rc1206fr_071kl
X_R24	_N84 _N86    rc1206fr_0710kl
X_U7	_N74 _N71 0 0    vo618a_3x017t
X_R35	_N61 _N107    erj_p06j621v
X_R26	_N95 INERTIA    rc1206fr_071kl
X_R17	_N74 LEFT    rc1206fr_0710kl
X_U8	_N72 _N73 0    mmbt2222a
X_R31	_N18 _N109    erj_p06j621v
X_LED1	LVMS _N109    150060ss75000
X_R25	0 _N86    rc0805fr_07100kl
X_C2	0 _N50    cl21c221jbannnc
X_U3	_N50 _N47 0 0    vo618a_3x017t
X_R27	_N98 BOTS    rc1206fr_0710kl
X_U10	_N84 _N85 0    mmbt2222a
X_R4	_N47 COCKPIT    rc1206fr_071kl
X_R13	_N61 LEFT_LED    erj_p06j621v
X_J2	INERTIA_LED BOTS_LED RIGHT_LED LEFT_LED COCKPIT_LED NC BSPD_LED NC    397730008
X_C5	0 _N86    cl21c221jbannnc
X_LED3	RIGHT _N106    150060ss75000
X_R29	_N96 _N98    rc1206fr_0710kl
X_R6	_N49 COCKPIT_LED    erj_p06j621v
X_R33	_N85 _N106    erj_p06j621v
X_R22	_N86 RIGHT    rc1206fr_0710kl
X_R18	_N73 RIGHT_LED    erj_p06j621v



*** Subcircuit definition for empty blocks.

.subckt  150060ss75000	anode cathode 
.ends


.subckt  rc0805fr_07100kl	2 1 
.ends


.subckt  vo618a_3x017t	c_2 a c e 
.ends


.subckt  mmbt2222a	b c e 
.ends


.subckt  cl21c221jbannnc	2 1 
.ends


.subckt  erj_p06j621v	2 1 
.ends


.subckt  rc1206fr_0710kl	2 1 
.ends


.subckt  rc1206fr_071kl	2 1 
.ends


.subckt  397730008	6 5 4 3 2 8 1 7 
.ends



